US07402674B2
a) Ethyl 2-[2,4-dichloro-5-(2-chloro-4,6-difluorophenylamino)benzoyl]-3-(pyridin-3-yl -amino)acrylate
A solution of 30 mg (0.06 mmol) of ethyl 2-[2,4-dichloro-5-(2-chloro-4,6-difluorophenylamino) benzoyl]-3-dimethylaminoacrylate and 15 mg (0.16 mmol) of 3-aminopyridine in 2 ml of toluene were heated at 150° C. for 7 hours. Concentration resulted in 33 mg of the desired product, which were employed without further purification in the next stage.

reactant | ethyl 2-[2,4-dichloro-5-(2-chloro-4,6-difluorophenylamino) benzoyl]-3-dimethylaminoacrylate | 0.06 mmol, 30 mg | ClC1=C(C(=O)C(C(=O)OCC)=CN(C)C)C=C(C(=C1)Cl)NC1=C(C=C(C=C1F)F)Cl | C20H17Cl3F2N2O3
reactant | 3-aminopyridine | 0.16 mmol, 15 mg | NC=1C=NC=CC1 | C5H6N2
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-[2,4-dichloro-5-(2-chloro-4,6-difluorophenylamino)benzoyl]-3-(pyridin-3-yl -amino)acrylate | 33 mg | ClC1=C(C(=O)C(C(=O)OCC)=CNC=2C=NC=CC2)C=C(C(=C1)Cl)NC1=C(C=C(C=C1F)F)Cl | C23H16Cl3F2N3O3
